US09062048B2
Step C: 1-(4,4-dimethoxycyclohexyl)but-3-en-1-amine
A solution of N-(1-(1,4-dioxaspiro[4.5]decan-8-yl)but-3-en-1-yl)-2-methylpropane-2-sulfinamide (828 mg, 2.63 mmol), prepared in the previous step, was dissolved in methanol (20 mL) and treated with HCl (4.4 mL. 5.5 mmol, 1.25 M in MeOH), stirring overnight at room temperature. The reaction mixture was concentrated in vacuo, triturated with ether, decanting the supernatant several times and the residue dried under high vacuum afford the product as a white foam (HCl salt).

reactant | N-(1-(1,4-dioxaspiro[4.5]decan-8-yl)but-3-en-1-yl)-2-methylpropane-2-sulfinamide | 2.63 mmol, 828 mg | O1CCOC12CCC(CC2)C(CC=C)NS(=O)C(C)(C)C | C16H29NO3S
reactant | HCl | 5.5 mmol, 1.25 M, 4.4 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 1-(4,4-dimethoxycyclohexyl)but-3-en-1-amine | COC1(CCC(CC1)C(CC=C)N)OC | C12H23NO2
